US06982348B2
To a solution of ethyl 3-(4-fluorophenyl)-3-oxopropionate (34.7 g, 115.5 mmol) in acetonitrile (300 ml) were added 4-trifluoromethylbenzyl bromide (27.6 g, 115.5 mmol) and potassium carbonate (31.9 g, 231 mmol), and the mixture was stirred at room temperature for 4 hrs. The reaction solution was diluted with water (1 L) and extracted with ethyl acetate (500 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. Hexane was added to the residue and the precipitated crystals were washed with hexane to give ethyl 3-(4-fluorophenyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate (31 g, 76%).

reactant | ethyl 3-(4-fluorophenyl)-3-oxopropionate | 115.5 mmol, 34.7 g | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | 4-trifluoromethylbenzyl bromide | 115.5 mmol, 27.6 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | potassium carbonate | 231 mmol, 31.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | water | 1 L | O | H2O
product | ethyl 3-(4-fluorophenyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 31 g, 76% | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)=O | C19H16F4O3
